US09062068B2
Preparation of 5-amino-2-cyclopropyl-4-fluorobenzonitrile
The product from the above reaction (5-amino-2-bromo-4-fluorobenzonitrile) (4.0 g, 18.6 mmol), cyclo-propyl boronic acid (3.19 g, 37.2 mmol), Pd(OAc)2 (835 mg, 3.72 mmol), tricyclohexyl phosphine (1.04 g, 3.72 mmol), Cs2CO3 (36.3 g, 111.6 mmol) were combined in a pressure vessel. A mixture of toluene (110 ml) and H2O (35 ml) was added. The ensuing yellow-orange suspension was degassed and flushed with nitrogen gas (3×). The pressure vessel was sealed and heated over night (ca. 12 h) at 110° C. After checking the reaction by TLC and HPLC, the precipitate/salts were filtered off, more H2O was added and the mixture was extracted with ethyl acetate (3×). The combined organic phases were filtered through Na2SO4, silica gel was added and solvents were removed using a rotary evaporator. Further purification by CombiFlash (120 g column) eluting with hexanes/ethyl acetate (0→20% gradient) yielded 2.01 g (61%) of the desired product in form of a pale yellow, beige solid. 1H NMR (300 MHz, cdcl3) δ 6.98 (d, J=8.6 Hz, 1H), 6.58 (d, J=12.0 Hz, 1H), 3.81 (s br, 2H), 2.21-2.06 (m, 1H), 1.11-0.99 (m, 2H), 0.69-0.59 (m, 2H); MS (ES) 177 (M+H).

reactant | 5-amino-2-bromo-4-fluorobenzonitrile | NC=1C(=CC(=C(C#N)C1)Br)F | C7H4BrFN2
reactant | cyclo-propyl boronic acid | 37.2 mmol, 3.19 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexyl phosphine | 3.72 mmol, 1.04 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | Cs2CO3 | 111.6 mmol, 36.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd(OAc)2 | 3.72 mmol, 835 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | H2O | 35 ml | O | H2O
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | 5-amino-2-cyclopropyl-4-fluorobenzonitrile | 2.01 g, 61% | NC=1C(=CC(=C(C#N)C1)C1CC1)F | C10H9FN2
